US05650422
5-Nitro-2-(1-phenyl-1H-tetrazol-5-ylthiomethyl)saccharin (1 g, 0.0024 mol) was reduced over 3 spatulas of Rainey nickel (washed with THF prior to use) in 150 ml of THF under 50 psi hydrogen pressure. When reduction was complete (in about 5 hours) the reaction mixture was filtered, the filter pad washed with THF, and the filtrate evaporated to dryness to give a pale yellow, cloudy oil which was taken into hot ethanol and filtered. On cooling, the product separated and was collected to give 0.4 g (43%) of 5-amino-2-(1-phenyl-1H-tetrazol-5-ylthiomethyl)saccharin as yellow crystals.

reactant | 5-Nitro-2-(1-phenyl-1H-tetrazol-5-ylthiomethyl)saccharin | 0.0024 mol, 1 g | [N+](=O)([O-])C=1C=C2C(N(S(=O)(=O)C2=CC1)C(C1=CC=CC=C1)SC1=NN=NN1)=O | C15H10N6O5S2
catalyst | nickel | [Ni] | Ni
solvent | ethanol | C(C)O | C2H6O
product | 5-amino-2-(1-phenyl-1H-tetrazol-5-ylthiomethyl)saccharin | 0.4 g, 43% | NC=1C=C2C(N(S(=O)(=O)C2=CC1)C(C1=CC=CC=C1)SC1=NN=NN1)=O | C15H12N6O3S2
